US09029545B2
2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine
A mixture of 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid (400 mg, 1.017 mmol) (Description 16), copper (194 mg, 3.05 mmol) and quinoline (3 mL, 25.3 mmol) was heated in a microwave at 180° C. for 30 min and then 190° C. for 30 min. After cooling to RT, the mixture was purified by chromatography on silica gel, eluting with a gradient of 40-60% ethyl acetate in cyclohexane, to give the title compound (214 mg). LCMS (A) m/z: 349/351 [M+1]+, Rt 1.08 min (acidic).

reactant | 4-amino-2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylic acid | 1.017 mmol, 400 mg | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C2=CC(=CC=C2)OC)Br | C16H13BrN2O3S
reactant | quinoline | 25.3 mmol, 3 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 3.05 mmol, 194 mg | [Cu] | Cu
product | 2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 214 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C15H13BrN2OS
